OpenCircuit factory test: forward_02.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603005811870752768
* Revision: Rev:1.0
.model OC_HONGJIACHENG_1SS181 D(IS=1.8689333051e-9 N=1.8000000000e0 RS=1.0000000000e-4)

.temp 25
Itest 0 anode DC 9.5000000000e-2
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_1SS181
.op
.end
