OpenCircuit independent review hard-bound probe
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879719646208000
* Revision: Rev 1.0
.model OC_HONGJIACHENG_BZT52B13 D(IS=6.0191557579e-11 N=1.8000000000e0 RS=1.0000000000e-4 BV=1.3000000000e1 IBV=5.0000000000e-3 NBV=1.0000000000e0)
.temp 25
IZ 0 cathode DC 5.000000000000e-3
Ddut 0 cathode OC_HONGJIACHENG_BZT52B13
Vall all 0 DC 0
.op
.end
