OpenCircuit factory test: forward_06.cir
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8603373062914265088
* Revision: Rev. 1.0
.model OC_HONGJIACHENG_DSK320 D(IS=4.2888451329e-5 N=2.4067148746e0 RS=8.4228280935e-3)

.temp 25
Itest 0 anode DC 2.0000000000e1
Vanchor anchor 0 DC 0
Ranchor anchor 0 1G
Ddut anode 0 OC_HONGJIACHENG_DSK320
.op
.end
