OpenCircuit factory test: HL2310A RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879627077378048
* Revision: Rev. 1.0
.model OC_HONGJIACHENG_HL2310A VDMOS( VTO=2.0000000000e0 KP=2.2222222222e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=4.9500000000e-2 RS=1.8000000000e-2 RG=1.0000000000e-4 RDS=1e9 CGS=2.2750000000e-10 CGDMAX=1.9500000000e-11 CGDMIN=1.9500000000e-11 CJO=1.4500000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=1.8000000000e-2)

.temp 25
M1 d1 g1 0 OC_HONGJIACHENG_HL2310A
ID1 0 d1 DC 3.0000000000e0
VG1 g1 0 DC 1.0000000000e1
M2 d2 g2 0 OC_HONGJIACHENG_HL2310A
ID2 0 d2 DC 2.0000000000e0
VG2 g2 0 DC 4.5000000000e0
.op
.end
