OpenCircuit factory test: HL3400A RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8590905108660105216
* Revision: Rev:1.1
.model OC_HONGJIACHENG_HL3400A VDMOS( VTO=1.4000000000e0 KP=5.7142857143e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=1.9250000000e-2 RS=7.0000000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=9.7300000000e-10 CGDMAX=7.7000000000e-11 CGDMIN=7.7000000000e-11 CJO=2.2000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=7.0000000000e-3)

.temp 25
M1 d1 g1 0 OC_HONGJIACHENG_HL3400A
ID1 0 d1 DC 5.8000000000e0
VG1 g1 0 DC 1.0000000000e1
M2 d2 g2 0 OC_HONGJIACHENG_HL3400A
ID2 0 d2 DC 5.0000000000e0
VG2 g2 0 DC 4.5000000000e0
M3 d3 g3 0 OC_HONGJIACHENG_HL3400A
ID3 0 d3 DC 4.0000000000e0
VG3 g3 0 DC 2.5000000000e0
.op
.end
