OpenCircuit factory test: HL3415A RDS(on)
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8564879513445834752
* Revision: Rev:1.0
.model OC_HONGJIACHENG_HL3415A VDMOS( pchan VTO=-6.2000000000e-1 KP=4.7619047619e1 THETA=0.0000000000e0 LAMBDA=3.0000000000e-3 RD=2.3100000000e-2 RS=8.4000000000e-3 RG=1.0000000000e-4 RDS=1e9 CGS=1.0920000000e-9 CGDMAX=8.8000000000e-11 CGDMIN=8.8000000000e-11 CJO=3.7000000000e-11 IS=1.0000000000e-12 N=1.5000000000e0 RB=8.4000000000e-3)

.temp 25
M1 d1 g1 0 OC_HONGJIACHENG_HL3415A
ID1 d1 0 DC 5.0000000000e0
VG1 g1 0 DC -4.5000000000e0
M2 d2 g2 0 OC_HONGJIACHENG_HL3415A
ID2 d2 0 DC 4.0000000000e0
VG2 g2 0 DC -2.5000000000e0
.op
.end
